US05198208
(c) 1-Thia-4,7,10-triazacyclododecane
1-Thia-4,7,10-triazacyclododecane-3,11-dione (8.10 g, 37.3 mmol) was suspended in dry THF (distilled from lithium aluminium hydride) (2000 ml) and refluxed under nitrogen for 8 hours with continuous addition of freshly generated diborane (approx. 0.4 mol in total). The reaction mixture was cooled to ambient temperature, 6N HCl (80 ml) was added, and the mixture was stirred for 1 hour. Sodium hydroxide (20 g, 0.5 mol) was added and the solution was evaporated to dryness. The residue was extracted with ethanol (3×50 ml), the extracts were concentrated and 1-thia-4,7,10-triazacyclododecane was purified by extraction (acetonitrile) and sublimation (Kugelrohr). Yield 3.73 g (53%), white solid, m.p. 51°-54° C. (uncorrected). The structure was confirmed by 1HNMR and 13CNMR.

reactant | 1-Thia-4,7,10-triazacyclododecane-3,11-dione | 37.3 mmol, 8.10 g | S1CC(NCCNCCNC(C1)=O)=O | C8H15N3O2S
reactant | diborane | approx. 0.4 mol | B#B | B2
reactant | HCl | 6N, 80 ml | Cl | ClH
reactant | Sodium hydroxide | 0.5 mol, 20 g | [OH-].[Na+]
solvent | THF | 2000 ml | C1CCOC1 | C4H8O
product | 1-Thia-4,7,10-triazacyclododecane | S1CCNCCNCCNCC1 | C8H19N3S
